Demultiplexer Circuit
.include MOSFET_models_0p5_0p18-1.inc

*Voltage Sources

VDD Vdd 0 1.8

*Inputs

VIN in 0 PULSE(0 1.8 0 1n 1n 1n 5n)
VS1 S1 0 PULSE(0 1.8 0 1n 1n 1n 5n)
VS0 S0 0 PULSE(0 1.8 0 1n 1n 1n 5n)

*Inverter for input
Mp1 x_bar in Vdd Vdd PMOS0P18 [w=1.8u l=0.18u as=0.972p ad=0.972p ps=4.68u pd=4.68u]
Mn1 x_bar in 0 0 NMOS0P18 [w=0.9u l=0.18u as=0.486p ad=0.486p ps=2.88u pd=2.88u]

* Inverter for S1_bar
Mp2 S1_bar S1 Vdd Vdd PMOS0P18 [w=1.8u l=0.18u as=0.972p ad=0.972p ps=4.68u pd=4.68u]
Mn2 S1_bar S1 0 0 NMOS0P18 [w=0.9u l=0.18u As=0.486p Ad=0.486p ps=2.88u pd=2.88u]

* Inverter for S0_bar
Mp3 S0_bar S0 Vdd Vdd PMOS0P18 [w=1.8u l=0.18u as=0.972p ad=0.972p ps=4.68u pd=4.68u]
Mn3 S0_bar S0 0 0 NMOS0P18 [w=0.9u l=0.18u As=0.486p Ad=0.486p ps=2.88u pd=2.88u]

*Circuit for Y0
M1 N1 x_bar Vdd Vdd PMOS0P18 [w=5.4u l=0.18u As=2.916p Ad=2.916p ps=11.88u pd=11.88u]
M2 N2 S1 N1 Vdd PMOS0P18 [w=5.4u l=0.18u As=2.916p Ad=2.916p ps=11.88u pd=11.88u]
M3 Y0 S0 N2 Vdd PMOS0P18 [w=5.4u l=0.18u As=2.916p Ad=2.916p ps=11.88u pd=11.88u]

M4 Y0 x_bar 0 0 NMOS0P18 [w=0.9u l=0.18u As=0.486p Ad=0.486p ps=2.88u pd=2.88u]
M5 Y0 S1 0 0 NMOS0P18 [w=0.9u l=0.18u As=0.486p Ad=0.486p ps=2.88u pd=2.88u]
M6 Y0 S0 0 0 NMOS0P18 [w=0.9u l=0.18u As=0.486p Ad=0.486p ps=2.88u pd=2.88u]

*Circuit for Y1
M7 N3 x_bar Vdd Vdd PMOS0P18 [w=5.4u l=0.18u As=2.916p Ad=2.916p ps=11.88u pd=11.88u]
M8 N4 S1 N3 Vdd PMOS0P18 [w=5.4u l=0.18u As=2.916p Ad=2.916p ps=11.88u pd=11.88u]
M9 Y1 S0_bar N4 Vdd PMOS0P18 [w=5.4u l=0.18u As=2.916p Ad=2.916p ps=11.88u pd=11.88u]

M10 Y1 x_bar 0 0 NMOS0P18 [w=0.9u l=0.18u As=0.486p Ad=0.486p ps=2.88u pd=2.88u]
M11 Y1 S1 0 0 NMOS0P18 [w=0.9u l=0.18u As=0.486p Ad=0.486p ps=2.88u pd=2.88u]
M12 Y1 S0_bar 0 0 NMOS0P18 [w=0.9u l=0.18u As=0.486p Ad=0.486p ps=2.88u pd=2.88u]

*Circuit for Y2
M13 N5 x_bar Vdd Vdd PMOS0P18 [w=5.4u l=0.18u As=2.916p Ad=2.916p ps=11.88u pd=11.88u]
M14 N6 S1_bar N5 Vdd PMOS0P18 [w=5.4u l=0.18u As=2.916p Ad=2.916p ps=11.88u pd=11.88u]
M15 Y2 S0 N6 Vdd PMOS0P18 [w=5.4u l=0.18u As=2.916p Ad=2.916p ps=11.88u pd=11.88u]

M16 Y2 x_bar 0 0 NMOS0P18 [w=0.9u l=0.18u As=0.486p Ad=0.486p ps=2.88u pd=2.88u]
M17 Y2 S1_bar 0 0 NMOS0P18 [w=0.9u l=0.18u As=0.486p Ad=0.486p ps=2.88u pd=2.88u]
M18 Y2 S0 0 0 NMOS0P18 [w=0.9u l=0.18u As=0.486p Ad=0.486p ps=2.88u pd=2.88u]

*Circuit for Y3
M19 N7 x_bar Vdd Vdd PMOS0P18 [w=5.4u l=0.18u As=2.916p Ad=2.916p ps=11.88u pd=11.88u]
M20 N8 S1_bar N7 Vdd PMOS0P18 [w=5.4u l=0.18u As=2.916p Ad=2.916p ps=11.88u pd=11.88u]
M21 Y3 S0_bar N8 Vdd PMOS0P18 [w=5.4u l=0.18u As=2.916p Ad=2.916p ps=11.88u pd=11.88u]

M22 Y3 x_bar 0 0 NMOS0P18 [w=0.9u l=0.18u As=0.486p Ad=0.486p ps=2.88u pd=2.88u]
M23 Y3 S1_bar 0 0 NMOS0P18 [w=0.9u l=0.18u As=0.486p Ad=0.486p ps=2.88u pd=2.88u]
M24 Y3 S0_bar 0 0 NMOS0P18 [w=0.9u l=0.18u As=0.486p Ad=0.486p ps=2.88u pd=2.88u]

*Propagation Delay
.measure TRAN tPLH TRIG V(in) VAL=0.9 RISE=1 TARG V(Y3) VAL=0.9 RISE=1
.measure TRAN tPHL TRIG V(in) VAL=0.9 FALL=1 TARG V(Y3) VAL=0.9 FALL=1
.measure TRAN tPD AVG tPLH tPHL

*Average Power Dissipation
.measure tran totalPower INTEG (V(Vdd)*Is(M19))
.measure tran averagePower param = totalPower/100u

.tran 1n 100u
.END
